US07115596B2
3-(6-Methoxypyridin-3-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoic acid hydrochloride
Dissolve ethyl 3-(6-methoxypyridin-3-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate (374mg, 1.0 mmol) and 4-morpholin-4-ylpyridin-2-amine (150 mg, 0.836 mmol) prepared according to Scheme 6, Example 1, in CH2Cl2. Add NaBH(OAc)3 (251 mg, 1.12 mmol) and stir at room temperature for 18 hours. The reaction was concentrated in vacuo and purified via reverse phase HPLC using a gradient of 10–60% CH3CN/H2O/0.5% HCl over 30 minutes to obtain the crude desired product.

reactant | ethyl 3-(6-methoxypyridin-3-yl)-4-[2-(4-oxobutyl)-1,3-thiazol-4-yl]butanoate | 1.0 mmol, 374mg | COC1=CC=C(C=N1)C(CC(=O)OCC)CC=1N=C(SC1)CCCC=O | C19H24N2O4S
reactant | 4-morpholin-4-ylpyridin-2-amine | 0.836 mmol, 150 mg | N1(CCOCC1)C1=CC(=NC=C1)N | C9H13N3O
reactant | NaBH(OAc)3 | 1.12 mmol, 251 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(6-Methoxypyridin-3-yl)-4-(2-{4-[(4-morpholin-4-ylpyridin-2-yl)amino]butyl}-1,3-thiazol-4-yl)butanoic acid hydrochloride | Cl.COC1=CC=C(C=N1)C(CC(=O)O)CC=1N=C(SC1)CCCCNC1=NC=CC(=C1)N1CCOCC1 | InChI=1S/C26H33N5O4S.ClH/c1-34-24-6-5-19(17-29-24)20(15-26(32)33)14-21-18-36-25(30-21)4-2-3-8-27-23-16-22(7-9-28-23)31-10-12-35-13-11-31;/h5-7,9,16-18,20H,2-4,8,10-15H2,1H3,(H,27,28)(H,32,33);1H
